US08124641B2
To a solution of diiodomethane (1.0 mL, 16 mmol) in toluene (10 mL) was added diethylzinc (15% in hexane, 10 mL, 8.8 mmol) under an argon atmosphere at 0° C. and the mixture was stirred for 15 minutes. To the mixture was added [(R)-4-(3-isopropenyl-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester (0.2 g, 0.46 mmol) in toluene (4 ml) and the mixture was stirred at 0° C. and then room temperature for 4 hours. The mixture was poured into aqueous ammonium chloride (20 mL) and extracted with dichloromethane (30 mL×3). The combined organic layers were washed with water (20 mL×3), then brine (30 mL), dried over sodium sulfate, concentrated and purified by preparative HPLC to afford {(R)-4-[3-(1-methyl-cyclopropyl)-5-trifluoromethyl-benzenesulfonylamino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester (40 mg, 18%) as a white solid. MS calcd. for C22H26F3N3O4S 485, obsd. (ESI+) [(M+H)+] 486.

reactant | diiodomethane | 16 mmol, 1.0 mL | ICI | CH2I2
reactant | diethylzinc | 8.8 mmol, 10 mL | C(C)[Zn]CC
reactant | [(R)-4-(3-isopropenyl-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester | 0.46 mmol, 0.2 g | C(C)OC(CN1N=CC=2[C@@H](CCCC12)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(=C)C)=O | C21H24F3N3O4S
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | {(R)-4-[3-(1-methyl-cyclopropyl)-5-trifluoromethyl-benzenesulfonylamino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | 40 mg, 18% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C1(CC1)C)=O | C22H26F3N3O4S
